US06313346B1
Preparation of 3-[2-(Dimethylamino)ethoxy]propionamide
A 100 ml 3 neck round bottom flask was fitted with the following: magnetic stirrer, reflux condenser, air bubbler, and a temperature controlled oil bath. The flask was charged with 22.25 g of 2-dimethylamino ethanol. Sodium hydride, 0.05 g, was then added carefully to 2-dimethylamino ethanol solution with stirring. After stirring at a constant rate for two minutes, 17.75 g of acrylamide was added. The reaction mixture was stirred at 45° C. for 6 hours. The mixture was cooled to ambient temperature and neutralized with 0.11 g of concentrated sulfuric acid. The resulting mixture was filtered through a Celite layer. The filtrate was collected for foam application. Quantitative 1H NMR shows that the product had ˜90% purity. The product could be further purified by reduced pressure distillation. Fraction collected at 135° C./1 mm Hg gives a colorless needle shape crystal (60% yield, >96% in purity).

reactant | 2-dimethylamino ethanol | 22.25 g | CN(CCO)C | C4H11NO
reactant | Sodium hydride | [H-].[Na+]
reactant | acrylamide | 17.75 g | C(C=C)(=O)N | C3H5NO
reactant | sulfuric acid | 0.11 g | S(O)(O)(=O)=O | H2O4S
product | 3-[2-(Dimethylamino)ethoxy]propionamide | 60% yield | CN(CCOCCC(=O)N)C | C7H16N2O2
